US07560571B2
To 0.14 g (0.497 mmol) of 5-carbamoyl-4-(4-aminophenyl)-1H-pyrrole-3-carboxylic acid hydrochloride dissolved in 18 cm3 of tetrahydrofuran are added, at a temperature in the region of 20° C. under an argon atmosphere, 0.072 cm3 (0.497 mmol) of 2-fluoro-5-trifluoromethylphenyl isocyanate and 0.07 cm3 (0.497 mmol) of triethylamine. After stirring for 5 hours at a temperature in the region of 20° C., the reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) to give a residue, which is purified by flash chromatography [eluent: dichloromethane/methanol/acetonitrile (gradient of from 90/5/5 to 80/10/10 by volume)]. After concentrating the fractions under reduced pressure, a solid is obtained, which is then stirred in 5 cm3 of pentane for 3 hours. After filtering through a No. 3 sinter funnel, the solid is washed with twice 1 cm3 of pentane and then dried under reduced pressure (2.7 kPa) at a temperature in the region of 30° C. for 15 hours to give 0.105 g of 5-carbamoyl-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrole-3-carboxylic acid in the form of a yellow solid melting at 194° C.; 1H NMR (400 MHz, DMSO d6, δ in ppm): 5.37 (broad m, 1H); 7.23 (d, J=8.5 Hz, 2H); 7.23 (masked m, 1H); 7.39 (m, 1H); 7.42 (d, J=3.0 Hz, 1H); 7.49 (d, J=8.5 Hz, 2H); 7.50 (partially masked m, 1H); 8.64 (dd, J=2.5 and 7.5 Hz, 1H); 8.97 (d, J=2.0 Hz, 1H); 9.35 (s, 1H); 11.6 (broad m, 1H); 12.05 (broad s, 1H); ES+: m/z=451: [M+H]+; ES−: m/z=449: [M−H]−.

reactant | 5-carbamoyl-4-(4-aminophenyl)-1H-pyrrole-3-carboxylic acid hydrochloride | 0.497 mmol, 0.14 g | Cl.C(N)(=O)C1=C(C(=CN1)C(=O)O)C1=CC=C(C=C1)N
reactant | 2-fluoro-5-trifluoromethylphenyl isocyanate | 0.497 mmol, 0.072 cm3 | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
reactant | triethylamine | 0.497 mmol, 0.07 cm3 | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 18 cm3 | O1CCCC1 | C4H8O
solvent | pentane | 5 cm3 | CCCCC | C5H12
product | 5-carbamoyl-4-{4-[3-(2-fluoro-5-trifluoromethylphenyl)ureido]-phenyl}-1H-pyrrole-3-carboxylic acid | 0.105 g | C(N)(=O)C1=C(C(=CN1)C(=O)O)C1=CC=C(C=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)F | C20H14F4N4O4
